US08283353B2
4′-({4-[trans-4-({2-methyl-2-[(triethylsilyl)oxy]cyclopropyl]oxy)cyclohexyl}-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of 4′-({5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (1.12 g) and triethylsilyl chloride (0.72 mL) in tetrahydrofuran (15 mL) was added dropwise lithium hexamethyldisilazide (1.1 M tetrahydrofuran solution, 2.9 mL) at −78° C., and the mixture was stirred for 2 hr. To the reaction mixture were added ethyl acetate and then saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in methylene chloride (5 mL), and the solution was added dropwise to a solution of diethylzinc (1 M hexane solution, 15 mL) and chloroiodomethane (1.09 mL) in methylene chloride (20 mL) at 0° C., and the mixture was stirred for 2 hr. To the reaction mixture were added ethyl acetate and then saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.44 g, 31%).

reactant | 4′-({5-oxo-4-[trans-4-(2-oxopropoxy)cyclohexyl]-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 1.12 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(C)=O | C32H34N4O3
reactant | triethylsilyl chloride | 0.72 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | lithium hexamethyldisilazide | 1.1 M, 2.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-({2-methyl-2-[(triethylsilyl)oxy]cyclopropyl]oxy)cyclohexyl}-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.44 g, 31% | CC1(C(C1)O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2)O[Si](CC)(CC)CC | C39H50N4O3Si
